US05204462
5N sodium hydroxide (18.58 ml) was added dropwise to a methanol solution (100 ml) of N-cinnamoyl-L-proline methyl ester (20.07 g) under ice cooling, and the mixture was stirred at room temperature for three hours. The pH value of the obtained reaction solution was adjusted to 5 with 5N hydrochloric acid, and the resultant solution was poured into 1 l of water. The precipitate was filtered out and dried to obtain 16.84 g of N-cinnamoyl-L-proline.

reactant | sodium hydroxide | 5N, 18.58 ml | [OH-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
reactant | N-cinnamoyl-L-proline methyl ester | 20.07 g | COC([C@H]1N(CCC1)C(C=CC1=CC=CC=C1)=O)=O | C15H17NO3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | 1 l | O | H2O
product | N-cinnamoyl-L-proline | 16.84 g | C(C=CC1=CC=CC=C1)(=O)N1[C@H](C(=O)O)CCC1 | C14H15NO3
